US04812162
Sodium hydride (0.58 g, 50% in oil, 12 mmol) was washed with petrol (60°-80° C.) and suspended in DMF (20 ml). To this, with vigorous stirring, was added dropwise, a solution of the crude methyl(6-ethoxyindol-1-yl)acetate (1.4 g, 6 mmol) and methyl formate (1.8 ml, 30 mmol) in DMF (10 ml) at room temperature. After 3 hours the reaction mixture was poured into 10% aqueous potassium carbonate (100 ml), washed with ether (2×100 ml), neutralised with concentrated hydrochloric acid and extracted with ether (2×100 ml). These extracts were washed with brine, dried and concentrated to give methyl 3-hydroxy-2-(6-ethoxyindol-1-yl)acrylate (1.0 g, 63% yield) as an orange oil.

reactant | Sodium hydride | 12 mmol, 0.58 g | [H-].[Na+]
reactant | methyl(6-ethoxyindol-1-yl)acetate | 6 mmol, 1.4 g | COC(CN1C=CC2=CC=C(C=C12)OCC)=O | C13H15NO3
reactant | methyl formate | 30 mmol, 1.8 ml | C(=O)OC | C2H4O2
reactant | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 3-hydroxy-2-(6-ethoxyindol-1-yl)acrylate | 1.0 g, 63% yield | OC=C(C(=O)OC)N1C=CC2=CC=C(C=C12)OCC | C14H15NO4
